US04288436
2-n-Propoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetic acid (syn isomer) (1.73 g.) and 7-amino-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (2.0 g.) were reacted according to similar manners to those of Examples 1(b), 2(b), 3(b) and 6(b) to give white powder of 7-[2-n-propoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetamido]-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (2.32 g.).

reactant | 2-n-Propoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetic acid | 1.73 g | C(CC)ON=C(C(=O)O)C=1N=C(SC1)NC=O | C9H11N3O4S
reactant | 7-amino-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.0 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)O)C1=O | C11H12N6O5S2
product | 7-[2-n-propoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetamido]-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.32 g | C(CC)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C20H21N9O8S3
